US09260420B2
To a solution of 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1H-quinolin-2-one (3.14 g) synthesized in the same manner as in WO2006/112464 (Example 1) in methylene chloride (32 mL) were added with stirring under ice-cooling triethylamine (4.0 mL) and acetyl chloride (1.5 mL), and the mixture was stirred at room temperature for 39 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride:ethyl acetate=7:3→1:9) to give 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]quinolin-2-yl acetate (1.24 g).

reactant | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1H-quinolin-2-one | 3.14 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(NC1=C2)=O | C25H27N3O2S
reactant | triethylamine | 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.5 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 32 mL | C(Cl)Cl | CH2Cl2
product | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]quinolin-2-yl acetate | 1.24 g | C(C)(=O)OC1=NC2=CC(=CC=C2C=C1)OCCCCN1CCN(CC1)C1=CC=CC=2SC=CC21 | C27H29N3O3S
